US08703954B2
Synthesis of (8S)-2-{(E)-2-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridine Hydrochloride
Concentrated hydrochloric acid (14.3 μL) and heptane (7 mL) were added to a solution of (8S)-2-{(E)-2-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridine (79.77 mg) in 2-propanol (3 mL). A small amount of the crystals obtained in Example 5 were added as seed crystals with stirring at room temperature. The mixture was transferred to a low temperature laboratory at about 5° C. and stirred for one hour. Thereafter, 1 mL of heptane was further added, followed by stirring for several minutes. When the precipitated solid was collected by filtration through a glass filter, the solid was precipitated in the filtrate. The precipitated solid was collected by filtration through a glass filter and dried under reduced pressure at room temperature to obtain 38.02 mg of the title compound as white solid crystals.

reactant | hydrochloric acid | 14.3 μL | Cl | ClH
reactant | heptane | 7 mL | CCCCCCC | C7H16
reactant | (8S)-2-{(E)-2-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridine | 79.77 mg | COC1=C(C=CC(=N1)/C=C/C1=NN2C([C@@H](CCC2)C2=C(C=CC=C2)C(F)(F)F)=N1)N1C=NC(=C1)C | C25H23F3N6O
reactant | heptane | 1 mL | CCCCCCC | C7H16
solvent | 2-propanol | 3 mL | CC(C)O | C3H8O
product | (8S)-2-{(E)-2-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridine Hydrochloride | 38.02 mg | Cl.COC1=C(C=CC(=N1)/C=C/C1=NN2C([C@@H](CCC2)C2=C(C=CC=C2)C(F)(F)F)=N1)N1C=NC(=C1)C | InChI=1S/C25H23F3N6O.ClH/c1-16-14-33(15-29-16)21-11-9-17(30-24(21)35-2)10-12-22-31-23-19(7-5-13-34(23)32-22)18-6-3-4-8-20(18)25(26,27)28;/h3-4,6,8-12,14-15,19H,5,7,13H2,1-2H3;1H/b12-10+;/t19-;/m0./s1
